US07625880B2
Divinyl-(4-Fluorophenylmethyl)-phosphine oxide (0.719 g, 3.42 mmol) and benzylamine (0.45 mL, 4.11 mmol) were dissolved in a mixture of THF (15 mL) and deionized water (15 mL). The reaction mixture was heated at 82° C. for 22 hours. The reaction was not complete and so an additional 0.04 mL of benzylamine was added and the reaction mixture was heated for an additional six hours at 90° C. The reaction mixture was concentrated by rotary evaporation and the product was extracted into dichloromethane and washed with saturated brine. The organic phase was dried with sodium sulfate, filtered, and concentrated by rotary evaporation. The crude product was taken up in 1:1 ethyl acetate:dichloromethane and passed through a plug of silica. The product was then eluted from the silica with a solution of 10% methanol in ethyl acetate. The solvents were removed by rotary evaporation to yield 0.84 g of 1-benzyl-4-(4-fluorophenylmethyl)-[1,4]azaphosphinane 4-oxide (2.65 mmol, 77%). 1H NMR (400 MHz, CDCl3) δ 7.34-7.25 (m, 5H); 7.25-7.20 (m, 2H); 7.04-6.98. (m, 2H); 3.6 (s, 2H); 3.17-3.12 (d, 2H); 3.00-2.85 (m, 2H); 2.81-2.66 (m, 2H); 1.98-1.75 (m, 4H).

reactant | Divinyl-(4-Fluorophenylmethyl)-phosphine oxide | 3.42 mmol, 0.719 g | C(=C)P(CC1=CC=C(C=C1)F)(C=C)=O | C11H12FOP
reactant | benzylamine | 4.11 mmol, 0.45 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 0.04 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 1-benzyl-4-(4-fluorophenylmethyl)-[1,4]azaphosphinane 4-oxide | 2.65 mmol, 0.84 g, 77% | C(C1=CC=CC=C1)N1CCP(CC1)(CC1=CC=C(C=C1)F)=O | C18H21FNOP
